US09353082B2
Morpholino(3-(pyridin-3-yl)-1H-pyrazol-1-yl)methanone (acylation)
To a stirred solution of 3-(1H-pyrazol-3-yl)pyridine (0.435 g, 3 mmol) in tetrahydrofuran (15 ml) was added pyridine (0.367 ml, 4.50 mmol), DMAP (18.33 mg, 0.150 mmol). The solution was treated with 4-morpholinecarbonyl chloride (0.368 ml, 3.15 mmol). The reaction was heated to 80° C. for 20 hours. THF was removed by vacuum, the residue was partitioned between DCM and water. The organic phase was dried over MgSO4 and filtered. After evaporation the crude product was chromatographed in petroleumether:EtOAc=2:1. (Yield: 174 mg, 21%).

reactant | 3-(1H-pyrazol-3-yl)pyridine | 3 mmol, 0.435 g | N1N=C(C=C1)C=1C=NC=CC1 | C8H7N3
reactant | pyridine | 4.50 mmol, 0.367 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-morpholinecarbonyl chloride | 3.15 mmol, 0.368 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | DMAP | 0.150 mmol, 18.33 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Morpholino(3-(pyridin-3-yl)-1H-pyrazol-1-yl)methanone | O1CCN(CC1)C(=O)N1N=C(C=C1)C=1C=NC=CC1 | C13H14N4O2
